US07560552B2
2-[hydroxy(4-nitrophenyl)methylene]malononitrile
A 0° C. solution of 4-nitrobenzoyl chloride (24.12 g, 130 mmol) and malononitrile (8.60 g, 130 mmol) in dichloromethane (200 mL) was treated with PhCH2N(CH2CH3)3Cl (3.0 g), treated dropwise with 10N NaOH (30 mL), stirred at 0° C. for 1 hour, and filtered. The filter cake was washed with dichloromethane and diethyl ether, dissolved in 5% HCl, and extracted with ethyl acetate. The extract was dried (MgSO4), filtered, and concentrated. The concentrate was recrystallized from ethyl acetate/hexanes to provide 23 g of the desired product. MS(ESI(−)) m/e 214 (M−H)−.

reactant | 4-nitrobenzoyl chloride | 130 mmol, 24.12 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | malononitrile | 130 mmol, 8.60 g | C(CC#N)#N | C3H2N2
reactant | NaOH | 10N, 30 mL | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-[hydroxy(4-nitrophenyl)methylene]malononitrile | 23 g | OC(=C(C#N)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C10H5N3O3
